US06492424B1
To a solution of (4-(2-benzoyl-5-isopropyl-4-methoxy-phenoxy)-3,5-dibromo-phenyl)-acetic acid methyl ester (100 mg, 0.17 mmol) in THF under N2 atmosphere was added DIBAL (0.87 ml, 5 eq) dropwise at 0° C. The reaction was stirred at 0° C. for 15 minutes and allowed to reach room temperature and stirred for another 2 h. The mixture was poured into ice, and the aqueous phase extracted with EtOAc and the combined organic layers were dried over MgSO4 and concentrated. Purification on silica gave 2-(3,5-dibromo-4-(2-(hydroxy-phenyl-methyl)-5-isopropyl-4-methoxy-phenoxy)-phenyl)-ethanol as a solid (mg, %). 1H NMR (CD3COCD3): d

reactant | (4-(2-benzoyl-5-isopropyl-4-methoxy-phenoxy)-3,5-dibromo-phenyl)-acetic acid methyl ester | 0.17 mmol, 100 mg | COC(CC1=CC(=C(C(=C1)Br)OC1=C(C=C(C(=C1)C(C)C)OC)C(C1=CC=CC=C1)=O)Br)=O | C26H24Br2O5
reactant | DIBAL | 0.87 ml, 5 eq | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3,5-dibromo-4-(2-(hydroxy-phenyl-methyl)-5-isopropyl-4-methoxy-phenoxy)-phenyl)-ethanol | BrC=1C=C(C=C(C1OC1=C(C=C(C(=C1)C(C)C)OC)C(C1=CC=CC=C1)O)Br)CCO | C25H26Br2O4
